US04346248
226.5 gm (1.0 mols) of 1,2,4-trichloronitrobenzene were dissolved in 226 gm of isopropanol and hydrogenated in the presence of 6.1 gm of wet 1% Platinum on charcoal at 100° C. and 100-200 psig over a 90 minute period. The reaction mixture was filtered to remove the catalyst and the clear solution slowly dropped into a hot solution of 1125 gm of H2O and 500 gm of 98% sulfuric acid (5.0 mols) under vacuum to remove the isopropanol by distillation. The finely divided 2,4,5-trichloroaniline sulfate slurry was then cooled to -5° C. with good agitation and 56.9 gm (0.95 mols) of NaNO2 in 125 ml of water were added over a 15 minute period while maintaining a maximum temperature of +5° C. After 30 minutes of agitation the reaction mixture was filtered to remove an insoluble impurity. The resulting 2,4,5-trichlorobenzenediazonium sulfate solution was then added cold (0°±5° C.) to a boiling solution of 1000 gm of cupric sulfate heptahydrate in 2000 ml of water. As the product is formed, it is removed from the zone of reaction by steam distillation. The product in the steam distillate is extracted with two 300 ml aliquots of methylene chloride and stripped to dryness to obtain 123 gm of crude 2,4,5-trichlorophenol (0.62 mol) which analyzed to be 95.1% pure.

reactant | 1,2,4-trichloronitrobenzene | 1.0 mols, 226.5 gm | ClC1=C(C(=C(C=C1)Cl)[N+](=O)[O-])Cl | C6H2Cl3NO2
reactant | sulfuric acid | 5.0 mols, 500 gm | S(O)(O)(=O)=O | H2O4S
reactant | 2,4,5-trichloroaniline sulfate | S(=O)(=O)(O)O.ClC1=C(N)C=C(C(=C1)Cl)Cl
reactant | NaNO2 | 0.95 mols, 56.9 gm | N(=O)[O-].[Na+]
solvent | isopropanol | 226 gm | C(C)(C)O | C3H8O
catalyst | Platinum on charcoal | [Pt] | Pt
solvent | water | 125 ml | O | H2O
solvent | H2O | 1125 gm | O | H2O
product | 2,4,5-trichlorophenol | 0.62 mol, 123 gm | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
